US05023334
Preparation of 2-methylbenzoic acid [1-(4-pyridinyl)ethylidene]hydrazide, Compound 10
A mixture of 3.63 gm (0.03 mole) of 4-acetylpyridine, 4.51 gm (0.03 mole) of o-toluic acid hydrazide and 100 ml of 95% ethanol is refluxed 8 hr. The hot solution is filtered. The filtrate is diluted with water to the cloud point and cooled to room temperature. The mixture is chilled in the refrigerator and the product collected, washed with water, and dried to yield 4.78 gm (63%) of the title compound having a melting point of 187.4° C.

reactant | 4-acetylpyridine | 0.03 mole, 3.63 gm | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | o-toluic acid hydrazide | 0.03 mole, 4.51 gm | C=1(C(=CC=CC1)C(=O)NN)C | C8H10N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-methylbenzoic acid [1-(4-pyridinyl)ethylidene]hydrazide | 4.78 gm, 63% | N1=CC=C(C=C1)C(C)=NNC(C1=C(C=CC=C1)C)=O | C15H15N3O
